US04829069
(c) 4-Benzylthio-quinazoline
The title compound(5.2 g) was prepared from 4-mercaptoquinazoline(7.0 g) and benzyl chloride(5.5 g).

reactant | 4-mercaptoquinazoline | 7.0 g | SC1=NC=NC2=CC=CC=C12 | C8H6N2S
reactant | benzyl chloride | 5.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 4-Benzylthio-quinazoline | 5.2 g | C(C1=CC=CC=C1)SC1=NC=NC2=CC=CC=C12 | C15H12N2S
